data/pmechdb/original/mc_train_fold0/raw/train.txt
CN1C[CH:20](CC1=O)[O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC(=CC=C1C(=O)[O-:10])[N+](=O)[O-].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>CN1C[CH:20](CC1=O)[O:10]C(=O)C2=CC=C(C=C2)[N+](=O)[O-].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
C[N:10](C)[S+:20](C)[O-]>>C[N+:10](=[S:20](C)[O-])C 10=20,
CCCCC[C:20](=[O:21])Cl.C1=CSC(=C1)C=CC(C(CO)[NH2:10])O.CC(=O)[O-].[Na+]>>CCCCC[C:20]([NH2+:10]C(CO)C(C=CC1=CC=CS1)O)([O-:21])Cl.CC(=O)[O-].[Na+] 10=20;20,21=21
CC(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[N+:20](=O)=[O:21]>>CC(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][NH+:21](C(CC1CCCCC1)C(=O)[O-])C(CC)([O-])OC(=O)CC.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCC(=O)OC(CC)([NH:21]C(CC1CCCCC1)C(=O)[O-])[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC(=O)C1CCCC(C1=[O:10])Br.CC(=O)C=C>>[H:20][O+:10]=C1C(CCCC1Br)C(=O)OC.OS(=O)(=O)[O-:21].CC(=O)C=C 10=20;20,21=21
C[CH:10]=[C:11](C)[OH:12].[Br:20][Br:21]>>C[CH:10]([C:11](=[OH+:12])C)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC(C)(O)[O:10]CCO>>[H:20][O+:10](CCO)C(C)(C)O.[OH2:21] 10=20;20,21=21
C[C:20](=[OH+:21])OC.[SH2:10]>>C[C:20]([OH:21])(OC)[SH2+:10] 10=20;20,21=21
CO[C:11]1=[CH:10]C=C2C=CC=CC2=C1Br.[Br:20][Br:21]>>CO[C+:11]1[CH:10](C=C2C=CC=CC2=C1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
C[O:21][OH:20].C[P:10](C)C>>C[O-:21].C[P+:10](C)(C)[OH:20] 10=20;20,21=21
CC[CH:20]=[N+:21](C)C.CC[OH:10]>>CC[CH:20]([N:21](C)C)[OH+:10]CC 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCSC[CH:10]=[C:11](N)[OH:12]>>[H:20][CH:10](CSCC)[C:11](=[OH+:12])N.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC[C:20](=[O:21])CCC1(C(=O)CCC1=O)C.CC(C)C(C(=O)O)[NH2:10]>>CC[C:20](CCC1(C(=O)CCC1=O)C)([NH2+:10]C(C(C)C)C(=O)O)[O-:21] 10=20;20,21=21
[H:20][N:21](C)C(=O)C=C(CC1=CC=CC=C1)O.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[N-:21]C(=O)C=C(CC1=CC=CC=C1)O 10=20;20,21=21
[H:20][C:21](C1=CC=CC=C1)([C:22]2=[N+:23](C(=C(S2)CCO)C)CC3=CC=CC=C3)O.CC[N:10](CC)CC.CC(=O)C=C.CC(=O)OCC(=O)C=C.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](C2=CC=CC=C2)O)[N:23]1CC3=CC=CC=C3)CCO.CC(=O)C=C.CC(=O)OCC(=O)C=C.[Cl-] 10=20;22,23=23;20,21=21,22
CCO[C:20](=[O:21])OCC.C1CC[C:11](=[CH:10]C1)[O-:12]>>CCO[C:20]([CH:10]1CCCC[C:11]1=[O:12])([O-:21])OCC 10,11=10,20;20,21=21;12=11
CC(C)(C)[Si:20](C)(C)Cl.C1C=CC(C1CC[OH:10])O.C1=CC=NC=C1>>CC(C)(C)[Si-:20](C)(C)([OH+:10]CCC1CC=CC1O)Cl.C1=CC=NC=C1 10=20,
[H:20][O+:21](CC)C(CC)C=CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(C=CC)[O:21]CC 10=20;20,21=21
CC1=CC=C(C=C1)CC(C2=CC=CC=C2)O.C1=CC=C(C=C1)CC(=O)C2=CC=CC=C2.C1=CC=C(C=C1)[CH:20]([C:21]#N)[O-:10]>>CC1=CC=C(C=C1)CC(C2=CC=CC=C2)O.[C-:21]#N.C1=CC=C(C=C1)CC(=O)C2=CC=CC=C2.C1=CC=C(C=C1)[CH:20]=[O:10] 10=20;20,21=21
CC(=CC[C:20](=[O:21])C1=CC=CC=C1)[NH:10]C2CCCCC2N.CC(=O)O.CO.O>>CC1=CC[C:20]([NH+:10]1C2CCCCC2N)(C3=CC=CC=C3)[O-:21].CC(=O)O.CO.O 10=20;20,21=21
C[C:20]1([C:10](=[N+]=[N-])[P-:11](=O)([O:21]1)(OC)OC)C>>C[C:20](=[C:10]=[N+]=[N-])C.CO[P:11](=O)([O-:21])OC 10,11=10,20;20,21=21
C1=CC=C(C=C1)[CH2:10][Br+:11][Al-](Cl)(Cl)Cl>>[CH2+:10]C1=CC=CC=C1.[Al-](Cl)(Cl)(Cl)[Br:11] 10,11=11
CCC1CCCC(C1[OH:10])C.[O:21]=[P:20](Cl)(Cl)Cl>>CCC1CCCC(C1[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl)C 10=20;20,21=21
[H:10][AlH3-:11].C[CH:20]=[N:21]OC.[Li+]>>[H:10][CH:20](C)[N-:21]OC.[AlH3:11].[Li+] 10,11=10,20;20,21=21
CN1CCC23C4[C:20](=[O:21])CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.N[NH2:10].C(COCCO)O.O>>CN1CCC23C4[C:20](CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O)([NH2+:10]N)[O-:21].C(COCCO)O.O 10=20;20,21=21
C[CH:20]([NH:10]C)[F:21]>>C[CH:20]=[NH+:10]C.[F-:21] 10=20;20,21=21
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCCC4=CC=C(C=C4)N(=O)=O.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-]>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.C1=CC=C(C=C1)[P+:11](C2=CC=CC=C2)(C3=CC=CC=C3)OCCC4=CC=C(C=C4)N(=O)=O.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC1(C2CC1[C:10](=[C:11](C2)[O-:12])CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.[NH4+].[I-]>>[H:20][C:10]1(C2CC(C2(C)C)C[C:11]1=[O:12])CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4.CC(=O)[O-:21].[NH4+].[I-] 10,11=10,20;20,21=21;12=11
C[C:20](=[O:21])OC1=CC=CC=C1.[OH-:10]>>C[C:20]([OH:10])([O-:21])OC1=CC=CC=C1 10=20;20,21=21
C[CH2:20][O:21][P+:22](C)(C)C.[I-:10]>>C[CH2:20][I:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
C1CC[NH:10]CC1.C1=CC=C(C=C1)C[CH:20]=[O:21].CC(=O)O.COC(=O)CC(=O)O>>C1CC[NH+:10](CC1)[CH:20](CC2=CC=CC=C2)[O-:21].CC(=O)O.COC(=O)CC(=O)O 10=20;20,21=21
CCO[C:20](C)([OH:10])[O:21]C(=O)C>>CCO[C:20](=[OH+:10])C.CC(=O)[O-:21] 10=20;20,21=21
C[Si-:10](C)(C)([O+]=C)[Br:11]>>C[Si:10](C)(C)[O+]=C.[Br-:11] 10,11=11
C[Si-:10](C)(C)([O:11]S(=O)(=O)C(F)(F)F)[O+]=C1CCC2=C(O1)C=CC=C2.C[Si](C)(C)OCCO[Si](C)(C)C>>C[Si:10](C)(C)[O+]=C1CCC2=C(O1)C=CC=C2.C(F)(F)(F)S(=O)(=O)[O-:11].C[Si](C)(C)OCCO[Si](C)(C)C 10,11=11
[CH2:20]=[CH:21][CH:22]=[OH+:23].[OH2:10]>>[CH2:20]([CH:21]=[CH:22][OH:23])[OH2+:10] 10=20;22,23=23;20,21=21,22
